US07662979B2
2-(3-(hydroxymethyl)-6-nitro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)acetonitrile:
A solution of racemic (7-nitro-2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methanol (1.00 g, 4.73 mmol) and 4-chlorophenoxyacetonitrile (827 mg, 4.94 mmol) in DMF (12 mL) was added dropwise to a solution of potassium tert-butoxide (2.12 g, 18.9 mmol) in DMF (20 mL) at −5-0° C. After the addition was complete (7 minutes), the reaction mixture was stirred for 1 hour at −5-0° C. The reaction mixture was acidified with 1 N HCl before drowning into water (200 mL). The mixture was extracted with EtOAc (3×100 mL) and the combined organic layers were washed with 1N NaOH (3×50 mL) to remove most of the 4-chlorophenol. After removal of solvent, the residue was purified by flash chromatography on silica gel, gradient elution using 2:3, 1:1, 3:2, 100:0 ethyl acetate/hexane, to give 139 mg, 14% recovered starting material and 804 mg, 68% yield of the title compound as a solid. 1H NMR (CDCl3) δ 7.77 (1H, d, J=9.12 Hz); 7.01 (1H, d, J=9.12 Hz); 4.50-4.40 (2H, m); 4.30-3.91 (5H, m); 2.25-2.21 (1H, m). 13C NMR (CDCl3) δ 148.07, 141.71, 141.55, 119.44, 117.07, 116.96, 115.71, 74.36, 65.31, 61.18, 14.89.

reactant | racemic (7-nitro-2,3-dihydrobenzo[b][1,4]dioxin-2-yl)methanol | 4.73 mmol, 1.00 g | [N+](=O)([O-])C=1C=CC2=C(OC(CO2)CO)C1 | C9H9NO5
reactant | 4-chlorophenoxyacetonitrile | 4.94 mmol, 827 mg | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | potassium tert-butoxide | 18.9 mmol, 2.12 g | CC(C)([O-])C.[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 2-(3-(hydroxymethyl)-6-nitro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)acetonitrile | 804 mg, 68% yield | OCC1OC2=C(OC1)C=CC(=C2CC#N)[N+](=O)[O-] | C11H10N2O5
